US07566698B2
After dissolving 2-O-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)ascorbic acid (300 mg, 0.6 mmol) in methanol (10 ml), a solution of potassium carbonate (600 mg) in water (9 ml) was added and the mixture was stirred for 30 minutes. The reaction solution was neutralized with IR-120(H+), the resin was filtered off, and washing was performed with methanol and a 50% methanol aqueous solution. The filtrate and washing solution were combined and concentrated, and then water was added and the mixture was lyophilized to obtain 2-O-(β-D-glucopyranosyl)ascorbic acid as amorphous crystals (190 mg, 100% yield).

reactant | 2-O-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)ascorbic acid | 0.6 mmol, 300 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC=1C(=O)O[C@@H](C1O)[C@@H](O)CO | C20H26O15
reactant | potassium carbonate | 600 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 9 ml | O | H2O
product | 2-O-(β-D-glucopyranosyl)ascorbic acid | 190 mg, 100% yield | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC=1C(=O)O[C@@H](C1O)[C@@H](O)CO | C12H18O11
